US06255496B1
(E)-N-dodecyl-4-(4,4,4-trifluoro-3-oxo-1-butenyl)phenoxyacetamide
A solution of (E)-4-(4,4,4-trifluoro-3-oxo-1-butenyl)phenoxyacetic acid (0.810 g, 2.95 mmol) in tetrahydrofuran (20 ml) was treated with EEDQ (0.767 g, 3.10 mmol) and dodecylamine (0.575 g, 3.10 mmol). After 2 h at 22° C., the reaction mixture was diluted with ethyl acetate, washed with water, 0.1N hydrochloric acid, saturated sodium bicarbonate, brine and dried. Evaporation of the solvent under reduced pressure gave a solid which was chromatographed on silica gel. Elution with a mixture of toluene and ethyl acetate (8:12) gave 0.750 g (58%) of the title material as white needles after recrystallization from ethyl acetate-hexane: mp 78.5-79° C.

reactant | (E)-4-(4,4,4-trifluoro-3-oxo-1-butenyl)phenoxyacetic acid | 2.95 mmol, 0.810 g | FC(C(/C=C/C1=CC=C(OCC(=O)O)C=C1)=O)(F)F | C12H9F3O4
reactant | EEDQ | 3.10 mmol, 0.767 g | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
reactant | dodecylamine | 3.10 mmol, 0.575 g | C(CCCCCCCCCCC)N | C12H27N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-N-dodecyl-4-(4,4,4-trifluoro-3-oxo-1-butenyl)phenoxyacetamide | 0.750 g, 58% | C(CCCCCCCCCCC)NC(COC1=CC=C(C=C1)\C=C\C(C(F)(F)F)=O)=O | C24H34F3NO3
